US09062092B2
Compound 93c. (S)-4-Benzyl-3-((S)-2-cyclopropyl-2-triisopropylsilanyloxy-acetyl)-oxazolidin-2-one
A cooled (0° C.) solution of (S)-4-benzyl-3-((S)-2-cyclopropyl-2-hydroxy-acetyl)-oxazolidin-2-one (4.137 g, 15.026 mmol) in dichloromethane (60 mL) was subsequently treated with 2,6-lutidine (3.5 mL, 30.052 mmol) and triisopropylsilyl trifluoromethanesulfonate (6.1 mL, 22.539 mmol). After stirring at room temperature for 1 h, the reaction was quenched with pH 4 buffer (phthalate). The aqueous layer was extracted with dichloromethane. The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 100 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/diethyl ether 1:0 to 9:1 to afford the title compound (5.28 g, 81%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.40-0.49 (m, 2H), 0.53-0.62 (m, 1H), 0.63-0.71 (m, 1H), 1.02-1.18 (m, 21H), 1.20-1.34 (m, 1H), 2.66 (dd, J=13.1, 10.5 Hz, 1H), 3.49 (dd, J=13.1, 3.4 Hz, 1H), 4.17-4.27 (m, 2H), 4.63-4.73 (m, 1H), 5.58 (d, J=5.1 Hz, 1H), 7.24-7.40 (m, 5H).

reactant | (S)-4-benzyl-3-((S)-2-cyclopropyl-2-hydroxy-acetyl)-oxazolidin-2-one | 15.026 mmol, 4.137 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](O)C1CC1)=O | C15H17NO4
reactant | 2,6-lutidine | 30.052 mmol, 3.5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | triisopropylsilyl trifluoromethanesulfonate | 22.539 mmol, 6.1 mL | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (S)-4-Benzyl-3-((S)-2-cyclopropyl-2-triisopropylsilanyloxy-acetyl)-oxazolidin-2-one | 5.28 g, 81% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](O[Si](C(C)C)(C(C)C)C(C)C)C1CC1)=O | C24H37NO4Si
